US09216999B2
tert-Butyl 3-(cyanomethyl)azetidine-1-carboxylate
tert-Butyl 3-(cyanomethylene)azetidine-1-carboxylate (823 mg, 4.24 mmol) in a mixture of methanol (20 mL) and 1,4-dioxane (10 mL) was stirred with 5% palladium-carbon (129 mg) for one day under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a colorless oil (657 mg, yield 79%).

reactant | tert-Butyl 3-(cyanomethylene)azetidine-1-carboxylate | 4.24 mmol, 823 mg | C(#N)C=C1CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
solvent | methanol | 20 mL | CO | CH4O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 129 mg | [C].[Pd]
product | tert-Butyl 3-(cyanomethyl)azetidine-1-carboxylate | 657 mg, yield 79% | C(#N)CC1CN(C1)C(=O)OC(C)(C)C | C10H16N2O2
